US07618975B2
(2-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methylquinazoline and 2-fluoro-4-methoxyaniline by a procedure similar to example 28 (79%). 1H NMR (CDCl3): 8.54 (m, 1H), 7.83 (m, 2H), 7.65 (m, 1H), 7.50 (m, 1H), 7.47 (s, broad, 1H), 6.74-6.81 (m, 2H), 3.83 (s, 3H), 2.70 (s, 3H).

reactant | 4-chloro-2-methylquinazoline | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 2-fluoro-4-methoxyaniline | FC1=C(N)C=CC(=C1)OC | C7H8FNO
product | (2-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | FC1=C(C=CC(=C1)OC)NC1=NC(=NC2=CC=CC=C12)C | C16H14FN3O
